US05330986
To a chilled solution of indole-7-carboxylic acid (3.22 g; 0.02 mole) in 30ml dimethylformamide was added 1,1'-carbonyldiimidazole (3.24 g; 0.02 mole). This was stirred at ice bath temperature for 40 minutes after whicha solution of 1-(2-pyrimidyl)piperazine (4.1 g; 0.025 moles) was added. This was stirred at ambient temperature for 3 hours and the solvent was concentrated in vacuo. The resulting oil was triturated with water to give5.7 g (93%) of a solid, m.p. 194°-197° C. The solid was recrystallized from methanol/water to give 4.7 g (76%) of 1-(1H-Indol-7-ylcarbonyl)-4-(2-pyrimidinyl)piperazine, m.p. 200°-202° C.

reactant | indole-7-carboxylic acid | 0.02 mole, 3.22 g | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | 1,1'-carbonyldiimidazole | 0.02 mole, 3.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(2-pyrimidyl)piperazine | 0.025 moles, 4.1 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
solvent | dimethylformamide | 30ml | CN(C=O)C | C3H7NO
product | 1-(1H-Indol-7-ylcarbonyl)-4-(2-pyrimidinyl)piperazine | 4.7 g, 76% | N1C=CC2=CC=CC(=C12)C(=O)N1CCN(CC1)C1=NC=CC=N1 | C17H17N5O
